US06143773
Step 1: 6,6-Dimethyl-3-propylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a suspension of 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (500 mg, 1.4 mmol) in EtOH (15 mL) was added NaOH (0.71 mL of a 4 M solution, 2.8 mmol) followed by propanethiol (255 μL, 2.8 mmol). The mixture was stirred at room temperature for 2 h then evaporated. The residue was partitioned between EtOAc (20 mL) and water (20 mL). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was triturated with ether and the colourless solid (380 mg, 77%) collected by filtration. mp 117-119° C. C18H25NO2S2 requires: C, 61.50; H, 7.17; N, 3.98%. Found: C, 61.48; H, 7.02; N, 3.97%. 1H NMR (250 MHz, CDCl3) δ1.04 (6H, s), 1.10 (3H, t, J=7.3 Hz), 1.87 (2H, sextet, J=7.3 Hz), 1.93-1.99 (4H, m), 2.40 (2H, s), 2.83 (2H, s), 3.00 (2H, t, J=7.3 Hz), 3.57-3.63 (4H, m). MS (ES+) 352 (M+1).

reactant | 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 1.4 mmol, 500 mg | CC1(CC(C=2C(=C(SC2S(=O)(=O)C)C(=O)N2CCCC2)C1)=O)C | C16H21NO4S2
reactant | NaOH | [OH-].[Na+]
reactant | propanethiol | 2.8 mmol, 255 μL | C(CC)S | C3H8S
solvent | EtOH | 15 mL | CCO | C2H6O
product | 6,6-Dimethyl-3-propylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | CC1(CC(C=2C(=C(SC2SCCC)C(=O)N2CCCC2)C1)=O)C | C18H25NO2S2
